US07022702B2
Synthesis of N-(5-Phenylamino-[1,2,3]thiadiazol-4-ylmethyl)guanidine
To a 2 mL pyridine solution of 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide (50 mg, 0.24 mmole), was added the powder of 1H-pyrazole-1-carboxamidine hydrochloride (235 mg, 1.59 mmole) and diisopropyl ethylamine (234 mg, 1.8 mmole). Then the mixture was heated to about 80 ° C. The reaction mixture was cooled to room temperature for 4 hours and the solvent was then evaporated. The residue was loaded onto a preparative TLC plate and eluted sequentially with neat CH2Cl2 and CH2Cl2.MeOH (4:1). A 94 mg of crude product was collected, which was further purified by another preparative TLC (silica gel, CH2Cl2.MeOH.H2O=3.6:0.4:0.06). The title compound was obtained in 40 mg (66%). 1H NMR (ppm, CDCl3): 9.33 (br. t, 1 H), 8.01 (br. s, 1 H), 7.63-7.82 (m, 2 H), 7.20-7.40 (m, 3 H), 6.37 (br. s, 2 H), 6.08 (br. s, 1 H), 4.41 (d, 2 H).

reactant | 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | 0.24 mmole, 50 mg | C1(=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C9H8N4OS
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 1.59 mmole, 235 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropyl ethylamine | 1.8 mmole, 234 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-Phenylamino-[1,2,3]thiadiazol-4-ylmethyl)guanidine | C1(=CC=CC=C1)NC1=C(N=NS1)CNC(=N)N | C10H12N6S
